US07816540B2
b) [2-(4-Chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-cyclohexyl-acetic acid ethyl ester
To the solution of 75 g (0.28 mol) 2-(4-chloro-phenyl)-5,6-difluoro-1H-benzoimidazole in 750 ml N,N-dimethylformamide 116 g (0.33 mol) cesium carbonate and 88 g (0.35 mol) bromo-cyclohexyl-acetic acid ethyl ester (commercially available) were added. The mixture was heated to 100° C. and after stirring for 90 min. another 116 g cesium carbonate and 88 g bromo-cyclohexyl-acetic acid ethyl ester were added. After 6 h another 116 g cesium carbonate and 88 g bromo-cyclohexyl-acetic acid ethyl ester were added. After 22 h (total reaction time) the reaction mixture was cooled to 30° C. and was poured on 1 L ice water and 2 L ethyl acetate. The phases were separated and the aqueous phase extracted with 500 mL ethyl acetate. The combined organic phases were washed three times with 500 ml ice water and once with brine, dried over magnesium sulfate and filtered. To the solution, silica gel was added and the solvent evaporated. The crude adsorbed product was purified by column chromatography over silica gel using n-heptane:ethyl acetate (9:1 v/v) as eluant. The product-containing fractions were pooled and the solvent evaporated until a suspension had formed. The suspension was cooled in an ice bath and filtered to give 92 g (75%) of the desired product as colorless solid. MS (ES+): 433 (M+H).

reactant | 2-(4-chloro-phenyl)-5,6-difluoro-1H-benzoimidazole | 0.28 mol, 75 g | ClC1=CC=C(C=C1)C1=NC2=C(N1)C=C(C(=C2)F)F | C13H7ClF2N2
reactant | N,N-dimethylformamide | 0.33 mol, 750 ml, 116 g | CN(C=O)C | C3H7NO
reactant | bromo-cyclohexyl-acetic acid ethyl ester | 0.35 mol, 88 g | C(C)OC(C(C1CCCCC1)Br)=O | C10H17BrO2
reactant | cesium carbonate | 116 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromo-cyclohexyl-acetic acid ethyl ester | 88 g | C(C)OC(C(C1CCCCC1)Br)=O | C10H17BrO2
reactant | cesium carbonate | 116 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromo-cyclohexyl-acetic acid ethyl ester | 88 g | C(C)OC(C(C1CCCCC1)Br)=O | C10H17BrO2
solvent | ethyl acetate | 2 L | C(C)(=O)OCC | C4H8O2
product | [2-(4-Chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-cyclohexyl-acetic acid ethyl ester | 92 g, 75% | C(C)OC(C(C1CCCCC1)N1C(=NC2=C1C=C(C(=C2)F)F)C2=CC=C(C=C2)Cl)=O | C23H23ClF2N2O2
